US07521462B2
To a cooled solution (0° C.) of 1,3-dimethyl-1H-pyrazole-4-carboxylic acid ethyl ester (5.0 g, 29.7 mmol) in anhydrous tetrahydrofuran (1000 ml), is added a solution of DIBAL-H (95.1 ml, 95.1 mmol). The reaction mixture is stirred at 0° C. for 2 hours and then quenched with saturated aqueous sodium potassium tartrate and stirred for 2 hours. The layers are separated and the aqueous layer is extracted with ethyl acetate. The combined organic extracts are dried over anhydrous Na2SO4, filtered, and concentrated in vacuo to give 1,3-dimethyl-1H-pyrazol-4-methanol (3.7 g, 100%) which is used without purification. 1H NMR (CDCl3): δ=7.22 (1H, s), 4.46 (2H, s), 3.74 (3H, s), 2.20 (3H, s).

reactant | 1,3-dimethyl-1H-pyrazole-4-carboxylic acid ethyl ester | 29.7 mmol, 5.0 g | C(C)OC(=O)C=1C(=NN(C1)C)C | C8H12N2O2
reactant | DIBAL-H | 95.1 mmol, 95.1 ml | CC(C)C[AlH]CC(C)C
solvent | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
product | 1,3-dimethyl-1H-pyrazol-4-methanol | 3.7 g, 100% | CN1N=C(C(=C1)CO)C | C6H10N2O
